US09278959B2
To a solution of N-iodosuccinamide (NIS) (4.95 g, 22 mmol) in dry acetonitrile (50 mL) was added 2-(3,4-dimethoxyphenyl)ethanamine (3.32 mL, 20 mmol) and trifluoroacetic acid (3.85 mL, 50 mmol) with stirring. The mixture was stirred at room temperature in a 250 mL round bottom flask for two hours. The acetonitrile was removed and the remaining solid was taken up in water. The water solution was treated with saturated sodium bisulfite aqueous solution until the purple color disappeared. The pH was adjusted to 8 and the aqueous solution was extracted with dichloromethane (3×50 mL) The organic layers were combined and dried over sodium sulfate. The solvent was evaporated to yield 2-(2-iodo-4,5-dimethoxyphenyl)ethanamine (4.3 g, 70%). The crude product was dried under dynamic vacuum overnight and was sufficiently pure for subsequent steps.

reactant | N-iodosuccinamide | 22 mmol, 4.95 g | INC(CCC(=O)N)=O | C4H7IN2O2
reactant | 2-(3,4-dimethoxyphenyl)ethanamine | 20 mmol, 3.32 mL | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | trifluoroacetic acid | 50 mmol, 3.85 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-(2-iodo-4,5-dimethoxyphenyl)ethanamine | 4.3 g, 70% | IC1=C(C=C(C(=C1)OC)OC)CCN | C10H14INO2
